US06573289B1
Production of 1-(1H-Imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)-2-methyl-2-propen-1-ol
In a similar manner to that described in Example 1-(iv), the reaction of (1H-imidazol-4-yl)-(6-methoxynaphthalen-2-yl)ketone (0.80 g) with 2-propen-2-ylmagnesium bromide in THF (1.0 M, 9.5 ml) was carried out to give the titled compound (0.76 g) as a colorless powder.

reactant | (1H-imidazol-4-yl)-(6-methoxynaphthalen-2-yl)ketone | 0.80 g | N1C=NC(=C1)C(=O)C1=CC2=CC=C(C=C2C=C1)OC | C15H12N2O2
reactant | 2-propen-2-ylmagnesium bromide | CC(=C)[Mg]Br
solvent | THF | 1.0 M, 9.5 ml | C1CCOC1 | C4H8O
product | 1-(1H-Imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)-2-methyl-2-propen-1-ol | 0.76 g | N1C=NC(=C1)C(C(=C)C)(O)C1=CC2=CC=C(C=C2C=C1)OC | C18H18N2O2
